US07498068B2
CBDA/4-ABA, DADOB (20)
19.22 g (0.098 mol) of CBDA, 9.77 g (0.08 mol) of 4-ABA and 5.85 g (0.02 mol) of DADOB were reacted in 197 g of NMP at room temperature for 5 hours to prepare a polyamic acid solution. The polymerization reaction proceeded easily and uniformly, and the molecular weights were measured in the same manner as in Preparation Example 1 and as a result, a solution of a polyamic acid having a number average molecular weight of 13,557 and a weight average molecular weight of 26,993 was obtained.

reactant | CBDA | 0.098 mol, 19.22 g | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O | C8H4O6
reactant | 4-ABA | 0.08 mol, 9.77 g | C1=CC=C2C=C3C=C(C=CC3=CC2=C1)CCCC(=O)O | C18H16O2
solvent | NMP | 197 g | CN1CCCC1=O | C5H9NO
product | CBDA 4-ABA | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O.C1=CC=C2C=C3C=C(C=CC3=CC2=C1)CCCC(=O)O | InChI=1S/C18H16O2.C8H4O6/c19-18(20)7-3-4-13-8-9-16-11-14-5-1-2-6-15(14)12-17(16)10-13;9-5-1-2(6(10)13-5)4-3(1)7(11)14-8(4)12/h1-2,5-6,8-12H,3-4,7H2,(H,19,20);1-4H
